US04224442
N-Methylcarbamoyl-N-methylcarbamoyl chloride
To a cold suspension of 22 g. (0.25 m.) of sym-dimethylurea in dichloroethane was added dropwise with stirring a cold solution of 30 g. (0.3 m.) of phosgene in 90 ml. of dichloroethane. After the addition of the phosgene solution was complete, the reaction mixture was allowed to stir at room temperature for one hour and was then heated to 80° C. and purged with nitrogen for one hour. The reaction mixture was evaporated under reduced pressure and the residual gum was extracted twice with 350 ml. portions of either. The extracts were combined and evaporated to provide 25 g. of the carbamoyl chloride.

reactant | sym-dimethylurea | CNC(=O)NC | C3H8N2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | carbamoyl chloride | C(N)(=O)Cl | CH2ClNO
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | N-Methylcarbamoyl-N-methylcarbamoyl chloride | CNC(=O)N(C(=O)Cl)C | C4H7ClN2O2
